US05387603
To a solution of 1-acetyl-5-(2-azidopropyl)indoline-7-carbonitrile (0.20 g) in ethanol (16 ml) was added 5% palladium on barium sulfate (102 mg), and the mixture was stirred at room temperature for 8 hours under an atmosphere of hydrogen. After the catalyst was filtered off, the filtrate was concentrated to dryness to give 0.18 g of 1-acetyl-5-(2-aminopropyl)indoline-7-carbonitrile melting at 94°-96° C.

reactant | 1-acetyl-5-(2-azidopropyl)indoline-7-carbonitrile | 0.20 g | C(C)(=O)N1CCC2=CC(=CC(=C12)C#N)CC(C)N=[N+]=[N-] | C14H15N5O
solvent | ethanol | 16 ml | C(C)O | C2H6O
catalyst | palladium on barium sulfate | 102 mg | [Pd] | Pd
product | 1-acetyl-5-(2-aminopropyl)indoline-7-carbonitrile | 0.18 g | C(C)(=O)N1CCC2=CC(=CC(=C12)C#N)CC(C)N | C14H17N3O
